US07547701B2
2(R)-Amino-3-(4-fluorobenzylsulfanyl)propan-1-ol (16.15 g), 4-dimethylamino-pyridine (554 mg), and triethylamine (16.7 mL) were weighed into a 1000 mL round bottom flask fitted with a stir bar, 250 mL addition funnel, septum, and nitrogen inlet. Methylene chloride (150 mL) was added to give a clear pale amber solution. A solution of tert-butyldimethylsilyl chloride (12.54 g) in CH2Cl2 (100 mL) was added dropwise over 40 min. After stirring overnight, the reaction mixture was poured into water and the organic phase was separated, dried over anhydrous MgSO4 and removed the solvent on rotavap to give 2-(tert-butyldimethylsilanyloxy)-1(R)-(4-fluoro-benzylsulfanylmethyl)ethylamine (25.92 g) as a clear yellow oil.

reactant | 2(R)-Amino-3-(4-fluorobenzylsulfanyl)propan-1-ol | 16.15 g | N[C@H](CO)CSCC1=CC=C(C=C1)F | C10H14FNOS
reactant | triethylamine | 16.7 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 12.54 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
catalyst | 4-dimethylamino-pyridine | 554 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2-(tert-butyldimethylsilanyloxy)-1(R)-(4-fluoro-benzylsulfanylmethyl)ethylamine | 25.92 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CSCC1=CC=C(C=C1)F)N | C16H28FNOSSi
